US07737166B2
2-(1-Acetylpiperidin-4-yl)-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (#33)
2-(1-Acetylpiperidin-4-yl)-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-104) (0.23 g, 0.61 mmol) was dissolved in dimethyl sulfoxide (7 ml), triethylamine (0.18 ml, 1.30 mmol) and (3S)-3-(dimethylamino)pyrrolidine (85.0 μl, 0.67 mmol) were added, followed by stirring an external temperature of about 90° C. for 4 hours. After dilution with ethyl acetate, this was washed with water, dried over anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure and the resulting residue was purified by silica gel column chromatography (silica gel 10 g, dichloromethane:methanol=30:1) to obtain a colorless oil (73 mg, 25%). This was dissolved in dioxane and freeze-dried into solid.

reactant | 2-(1-Acetylpiperidin-4-yl)-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 0.61 mmol, 0.23 g | C(C)(=O)N1CCC(CC1)C=1OC=2C(N1)=C(C(=C(C2F)C2=CC=CC=C2)C)C#N | C22H20FN3O2
reactant | triethylamine | 1.30 mmol, 0.18 ml | C(C)N(CC)CC | C6H15N
reactant | (3S)-3-(dimethylamino)pyrrolidine | 0.67 mmol, 85.0 μl | CN([C@@H]1CNCC1)C | C6H14N2
solvent | dimethyl sulfoxide | 7 ml | CS(=O)C | C2H6OS
product | 2-(1-Acetylpiperidin-4-yl)-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 73 mg, 25% | C(C)(=O)N1CCC(CC1)C=1OC=2C(N1)=C(C(=C(C2N2C[C@H](CC2)N(C)C)C2=CC=CC=C2)C)C#N | C28H33N5O2
